US08012976B2
9-(4-Chlorophenyl)-8-(4-((diethylamino)methyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 3-(4-chlorophenyl)-2-(4-((diethylamino)methyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (268 mg) in 85% hydrazine monohydrate (0.5 mL) and methanol (2 mL) was stirred at 23° C. for overnight. Methanol was removed under reduced pressure. The crude was purified by prep-HPLC to give the title compound (93 mg, yield 37%). LC-MS (ESI) m/z: 459 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 0.93 (t, 6H), 2.38 (q, 4H), 3.44 (s, 2H), 4.35 (d, 1H), 4.73 (d, 1H), 7.13-7.19 (m, 5H), 7.22-7.25 (m, 4H), 7.38 (d, 2H), 7.41 (s, 1H), 7.56-7.59 (m, 1H).

reactant | ethyl 3-(4-chlorophenyl)-2-(4-((diethylamino)methyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 268 mg | ClC1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=C(C=C1)CN(CC)CC | C29H31ClN2O3
reactant | hydrazine monohydrate | 0.5 mL | O.NN
solvent | methanol | 2 mL | CO | CH4O
product | 9-(4-Chlorophenyl)-8-(4-((diethylamino)methyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 93 mg, yield 37% | ClC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=C2)CN(CC)CC | C27H27ClN4O
